
.include ../model/32nm_HP.pm
.param SUPPLY=1

.PARAM Lmin=32n
.PARAM Wmin=32n
.PARAM Ldiff=64n

.PARAM N=1


.TEMP 85

M1 drain gate source body pmos W={N*Wmin} L={Lmin} AS={N*Wmin*Ldiff} AD={N*Wmin*Ldiff} PS={2*(Ldiff+N*Wmin)} PD={2*(Ldiff+N*Wmin)}
Vd 	drain	alim		0
Vg 	gate	0		1
Vs 	source	0		1
Vb 	body	0		1
Vdd 	alim	0		0

.control
let voltage=-0.01
let Vddbasic=1.0

while voltage le Vddbasic
  let voltage = voltage + 0.01
  alter Vdd = voltage
  dc TEMP 85 86 10
  print abs(V(alim)) V(drain) V(gate) V(source) V(body) I(Vd) I(Vg) I(Vs) I(Vb)

end

.endc

.end
